US03952012
5-(p-Chlorobenzoyl)-1-methylpyrrole-2-acetic acid:
A mixture of 129 g. (0.52 mole) of 5-(p-chlorobenzoyl)-1-methylpyrrole-2-acetonitrile and 88 g. (1.1 moles) of 50% sodium hydroxide solution in 800 ml. of ethanol and 500 ml. of water is stirred and refluxed for about 18 hours with slow evolution of ammonia. The solution is then cooled to about 50°C. and acidified by adding 110 ml. of concentrated hydrochloric acid. The mixture is cooled and the precipitated product, 5-(p-chlorobenzoyl)-1-methylpyrrole-2-acetic acid, is filtered and recrystallized from methanol, m.p. 193°-195°C. (dec.). A second crop is obtained upon concentration of the mother liquor for a total yield of about 67% of theoretical.

reactant | 5-(p-chlorobenzoyl)-1-methylpyrrole-2-acetonitrile | 0.52 mole | ClC1=CC=C(C(=O)C2=CC=C(N2C)CC#N)C=C1 | C14H11ClN2O
reactant | sodium hydroxide | 1.1 moles | [OH-].[Na+]
reactant | ammonia | N | H3N
reactant | hydrochloric acid | Cl | ClH
reactant | water | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | 5-(p-Chlorobenzoyl)-1-methylpyrrole-2-acetic acid | yield of about 67% | ClC1=CC=C(C(=O)C2=CC=C(N2C)CC(=O)O)C=C1 | C14H12ClNO3
